US07947715B2
4-Chloro-3-trifluoromethyl-1-[1-(trifluoromethyl)ethenyl]benzene
To 1M solution of 1-(trifluoromethyl)ethenyl zinc bromide in tetrahydrofuran (see J. Org. Chem. 1991, 56, 7336 for preparation) (53 mL) under nitrogen atmosphere was added 2-chloro-5-iodobenzotrifluoride (7.1 g), followed by the addition of dichlorobis(triphenylphosphine)palladium(II) (0.65 g). The mixture was stirred under reflux for 2.5 hours and then cooled to room temperature. To the resulting mixture was added hexane (100 mL) and filtered, and the filtrate was washed with water (50 mL) and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide a residue. The residue was purified by column chromatography on silica gel eluted with hexane to afford the title compound as colorless oil (4.8 g).

reactant | 1-(trifluoromethyl)ethenyl zinc bromide | [Br-].FC(C(=C)[Zn+])(F)F
reactant | 2-chloro-5-iodobenzotrifluoride | 7.1 g | ClC1=C(C=C(C=C1)I)C(F)(F)F | C7H3ClF3I
reactant | hexane | 100 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 53 mL | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.65 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Chloro-3-trifluoromethyl-1-[1-(trifluoromethyl)ethenyl]benzene | 4.8 g | ClC1=C(C=C(C=C1)C(=C)C(F)(F)F)C(F)(F)F | C10H5ClF6
